US06011044
Preparation of 1-(2,3-dimethylphenyl)-4-[(3-hydroxypropyl)amino]-6-trifluoromethoxy-2,3-dihydropyrrolo[3,2-c]quinoline
1-(2,3-Dimethylphenyl)-4-chloro-6-trifluoromethoxy-2,3-dihydropyrrolo[3,2-c]quinoline(500 mg, 1.3 mmol) was dissolved in 3-amino-1-propanol(6 ml) in the pressure tube, then reacted at the same condition of Step 3 in the Example 14 to obtain 300 mg of desired compound as solid in 56% of yield.

reactant | 1-(2,3-Dimethylphenyl)-4-chloro-6-trifluoromethoxy-2,3-dihydropyrrolo[3,2-c]quinoline | 1.3 mmol, 500 mg | CC1=C(C=CC=C1C)N1CCC=2C(=NC=3C(=CC=CC3C21)OC(F)(F)F)Cl | C20H16ClF3N2O
reactant | 3-amino-1-propanol | 6 ml | NCCCO | C3H9NO
product | 1-(2,3-dimethylphenyl)-4-[(3-hydroxypropyl)amino]-6-trifluoromethoxy-2,3-dihydropyrrolo[3,2-c]quinoline | 300 mg | CC1=C(C=CC=C1C)N1CCC=2C(=NC=3C(=CC=CC3C21)OC(F)(F)F)NCCCO | C23H24F3N3O2
